US08013156B2
A 20% solution of TFA in dichloromethane was added to 3′-(2-fluoro-pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (113 mg, 0.290 mmol). The solution was stirred at room temperature for 1 h until complete de-protection was evident by LCMS, then concentrated in vacuo. The resulting solid was diluted with dichloromethane (3 mL). Triethylamine (193 mg, 1.91 mmol) was added and assured bacisity with pH paper. The solution was cooled to −5° C. and 1-isocyanato-3,5-bis-trifluoromethyl-benzene (88.6 mg, 0.347 mmol) was added dropwise. After the addition was complete, the solution was stirred at −5° C. for 5 min, then allowed to warm up to room temperature and stirred for an additional 3 h. The solution was then diluted with EtOAc (20 mL), washed with satd. NaHCO3(aq) and brine, dried over MgSO4 and concentrated in vacuo. The crude solids were dissolved in MeOH and purified by preparative HPLC (50 mM NH4OAc(aq), acetonitrile solvent system). The product was isolated by lyophilization of pure fractions yielding N-[3,5-bis(trifluoromethyl)phenyl]-4-(3-{[(2-fluoropyridin-4-yl)methyl]oxy}pyrazin-2-yl)piperazine-1-carboxamide (50.5 mg, 32.0% yield). 1H NMR (CDCl3) 8.24 (d, 1H), 7.91 (s, 2H), 7.82 (d, 1H), 7.61 (d, 1H), 7.54 (s, 1H), 7.22 (d, 1H), 6.98 (s, 1H), 6.73 (d, 1H), 5.51 (s, 2H), 3.70-3.65 (m, 8H) ppm.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3′-(2-fluoro-pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 0.290 mmol, 113 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1OCC1=CC(=NC=C1)F | C19H24FN5O3
reactant | Triethylamine | 1.91 mmol, 193 mg | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-3,5-bis-trifluoromethyl-benzene | 0.347 mmol, 88.6 mg | N(=C=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-(3-{[(2-fluoropyridin-4-yl)methyl]oxy}pyrazin-2-yl)piperazine-1-carboxamide | 50.5 mg, 32.0% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CN=C1OCC1=CC(=NC=C1)F)(F)F | C23H19F7N6O2
